US05567413
N,N'-bis(2,3-dihydroxypropyl)2,4,6-triiodo-5-(tricosa-10,12-diynoylamino)isophthalamide
5-Amino,N,N'-bis(2,3-diacetoxypropyl)-2,4,6-triiodoisophthalamide (2.19 g, 2.5 mmol) and 10,12-tricosadiynoyl chloride (1.82 g, 5 mmol) were dissolved in 20 ml dichloromethane. The solution was stirred for 3 days at ambient temperature under a nitrogen atmosphere. TLC (ethyl acetate) indicated that the reaction was complete. The reaction mixture was evaporated and dissolved in a mixture of methanol (30 ml) and 1M sodium hydroxide solution (15 ml). After 1 hour TLC (methanol/chloroform) indicated that the reaction was complete. The solution was neutralized with concentrated hydrochloric acid. The residue was dissolved in chloroform and filtered. The solvent was removed and the reaction mixture was purified through silica gel with methanol/chloroform (1:3) to give the title compound. 1H NMR (300 MHz, DMSO): δ 0.8 (CH3, t), 1.2-1.7 (17×CH2, m), 2.2-2.3 (2×CH2, t) , 3.1-3.2 (2×CH2NH, m) , 3.3-3.5 (2×CH2OH, m), 3.6-3.8 (2×CHOH), 4.4-4.7 (4×OH, m), 8.4-8.5 (2×CONH, m), 9.8 (2×ArNHCO, s).

reactant | 5-Amino,N,N'-bis(2,3-diacetoxypropyl)-2,4,6-triiodoisophthalamide | 2.5 mmol, 2.19 g | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)C(=O)NCC(COC(C)=O)OC(C)=O)I | C22H26I3N3O10
reactant | 10,12-tricosadiynoyl chloride | 5 mmol, 1.82 g | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)Cl | C23H37ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N,N'-bis(2,3-dihydroxypropyl)2,4,6-triiodo-5-(tricosa-10,12-diynoylamino)isophthalamide | OC(CNC(C1=C(C(C(=O)NCC(CO)O)=C(C(=C1I)NC(CCCCCCCCC#CC#CCCCCCCCCCC)=O)I)I)=O)CO | C37H54I3N3O7
